US09102654B2
Ethyl 3-chloro-1-(pyridin-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate (Compound 19.6)
A 3-neck round bottomed flask (100 mL) was charged with ethyl 5-oxo-2-(pyridin-3-yl)pyrazolidine-3-carboxylate (8.50 g, 36.1 mmol) and acetonitrile (40 mL). Phosphoryl trichloride (4.05 mL, 43.4 mmol) was charged and the reaction was heated at 60° C. for 2 hours. The reaction was cooled to 20° C. and water (100 mL) was added. Sodium carbonate was added to adjust pH to 8 and the mixture was extracted with ethyl acetate (3×100 mL). The organic layers were concentrated to dryness and the residue was purified by flash column chromatography using 30-80% ethyl acetate/hexanes as eluent to provide the title compound as a yellow oil (7.30 g, 79%): 1H NMR (400 MHz, CDCl3) δ 8.30 (dd, J=2.9, 0.8 Hz, 1H), 8.17 (dd, J=4.7, 1.4 Hz, 1H), 7.38 (ddd, J=8.4, 2.8, 1.4 Hz, 1H), 7.18 (ddd, J=8.4, 4.7, 0.7 Hz, 1H), 4.79 (dd, J=12.4, 6.9 Hz, 1H), 4.24 (qd, J=7.1, 1.1 Hz, 2H), 3.55 (dd, J=17.7, 12.4 Hz, 1H), 3.33 (dd, J=17.8, 6.9 Hz, 1H), 1.25 (t, J=7.1 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 169.65, 141.90, 141.33, 141.09, 135.13, 123.53, 120.37, 62.89, 62.35, 42.45, 14.03; ESIMS m/z 254 ([M+H]+).

reactant | ethyl 5-oxo-2-(pyridin-3-yl)pyrazolidine-3-carboxylate | 36.1 mmol, 8.50 g | O=C1CC(N(N1)C=1C=NC=CC1)C(=O)OCC | C11H13N3O3
reactant | acetonitrile | 40 mL | C(C)#N | C2H3N
reactant | Phosphoryl trichloride | 43.4 mmol, 4.05 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 mL | O | H2O
product | Ethyl 3-chloro-1-(pyridin-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 7.30 g, 79% | ClC1=NN(C(C1)C(=O)OCC)C=1C=NC=CC1 | C11H12ClN3O2
